US07846956B2
1.83 g of ethyl 5-t-butyl-isoxazole-5-carboxylate was dissolved in 18 ml of tetrahydrofuran, and 0.70 g of sodium borohydride in 10 ml of ethanol was then added. The mixture was stirred at room temperature for 10 hours. After 5 ml of water was added, the reaction mixture was concentrated to 5 ml under reduced pressure. The concentrated solution was extracted with methyl-t-butyl ether. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure to obtain 0.62 g of (5-t-butyl-isoxazol-3-yl)methanol.

reactant | ethyl 5-t-butyl-isoxazole-5-carboxylate | 1.83 g | C(C)(C)(C)C1(C=CNO1)C(=O)OCC | C10H17NO3
reactant | sodium borohydride | 0.70 g | [BH4-].[Na+]
reactant | water | 5 ml | O | H2O
reactant | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (5-t-butyl-isoxazol-3-yl)methanol | 0.62 g | C(C)(C)(C)C1=CC(=NO1)CO | C8H13NO2
